US04426388
Butyric anhydride (4.7 ml, 0.03 mole) is added dropwise over a 5 minute period to a solution of 5-hydroxy-2-benzothiazolesulfonamide (6.5 g, 0.028 mole), 4-dimethylammopyridine (200 mg) and triethylamine (4 ml 0.028 mole) in dimethylformamide (30 ml). The reaction mixture is stirred at 25° C. for 1.5 hours, then poured into ice water and excess hydrochloric acid which is extracted with ether, washed with water and dried over magnesium sulfate. The ether is evaporated and the residue chromatographed on silica gel (150 g) eluting with ethyl acetate-hexane (1:1) to give 1.9 g of (2-sulfamoyl-5-benzothiazolyl)Butyrate which melts at 132° C. after recrystallization from benzene.

reactant | Butyric anhydride | 0.03 mole, 4.7 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | 5-hydroxy-2-benzothiazolesulfonamide | 0.028 mole, 6.5 g | OC=1C=CC2=C(N=C(S2)S(=O)(=O)N)C1 | C7H6N2O3S2
reactant | triethylamine | 0.028 mole, 4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylammopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (2-sulfamoyl-5-benzothiazolyl)Butyrate | 1.9 g | S(N)(=O)(=O)C=1SC2=C(N1)C=C(C=C2)OC(CCC)=O | C11H12N2O4S2
